US04585772
(b) 6-(3-Trifluoromethylphenyl)-2,3-dihydro-imidazo-[1,2-c]-quinazolin-5-one
3.26 g (75 mmol) of sodium hydride were added to a solution of 10.4 g (34 mmol) of 2-(2-(3-trifluoromethylphenylamino)-phenyl)-2-imidazoline in 100 ml of absolute tetrahydrofuran, and the mixture was warmed to 50° to 60° C. until evolution of hydrogen had ceased (5 to 6 hours). After the reaction mixture had cooled to room temperature, 16 ml (0.166 mol) of ethyl chloroformate were added dropwise to it and it was boiled under reflux for one hour. The mixture was allowed to cool, the pH was adjusted to 4-5 with glacial acetic acid, and the mixture was diluted with water and extracted with dichloromethane. The organic phase was dried over Na2SO4 and concentrated, and the residue was subjected to chromatography over silica gel (running agent ethyl acetate/methanol 7:3), and the residue from the evaporation of the product-containing fractions was thoroughly stirred with ether/petroleum ether 1:3.

reactant | sodium hydride | 75 mmol, 3.26 g | [H-].[Na+]
reactant | 2-(2-(3-trifluoromethylphenylamino)-phenyl)-2-imidazoline | 34 mmol, 10.4 g | FC(C=1C=C(C=CC1)NC1=C(C=CC=C1)C=1NCCN1)(F)F | C16H14F3N3
reactant | hydrogen | [H][H] | H2
reactant | ethyl chloroformate | 0.166 mol, 16 ml | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-(3-Trifluoromethylphenyl)-2,3-dihydro-imidazo-[1,2-c]-quinazolin-5-one | FC(C=1C=C(C=CC1)N1C(N2C(C=3C=CC=CC13)=NCC2)=O)(F)F | C17H12F3N3O
